US07214798B2
11.4. 2-(Methylamino)-2-oxoethyl 2-[1-(3-isoquinolyl)-4-piperidyl]ethylcarbamate
The process is performed according to the procedure described in Example 1 (step 1.5). Starting with 0.24 g (0.71 mmol) of 3-{2-[1-(3-isoquinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione, obtained in step 11.3, and 1.8 ml (3.53 mmol) of a solution (2M) of methylamine in tetrahydrofuran, and after chromatography on silica gel, eluting with a 98/2 and then 96/4 mixture of dichloromethane and methanol, followed by crystallization from diisopropyl ether, 0.16 g of pure product is obtained in the form of a white solid.

reactant | 3-{2-[1-(3-isoquinolyl)-4-piperidyl]ethyl}-1,3-oxazolidine-2,4-dione | 0.71 mmol, 0.24 g | C1=NC(=CC2=CC=CC=C12)N1CCC(CC1)CCN1C(OCC1=O)=O | C19H21N3O3
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(Methylamino)-2-oxoethyl 2-[1-(3-isoquinolyl)-4-piperidyl]ethylcarbamate | 3.53 mmol, 2M, 1.8 ml | C1=NC(=CC2=CC=CC=C12)N1CCC(CC1)CCNC(OCC(=O)NC)=O | C20H26N4O3
